US06008214
a) Bis [2-(4-pyridyl)ethyl]amine
A mixture of 4-vinylpyridine (10.0 g, 95.1 mmole) and ammonium chloride (5.1 g, 95.1 mmole) in MeOH (90 mL) was heated to reflux under argon for 27 h. The resulting mixture was filtered and the filtrate was concentrated on the rotavap. The residue was dissolved in H2O (200 mL), and the solution was basified to pH 10.5 using 2 N NaOH. CH2Cl2 extraction (3×100 mL), drying (MgSO4), and concentration gave a yellow oil (5.73 g, 49% crude). 2.9 g of this oil was chromatographed on silica gel (12% MeOH/CH2Cl2) to afford the title compound as a yellow oil (1.81 g, 16%). MS (ES) m/e 228 (M+H)+.

reactant | 4-vinylpyridine | 95.1 mmole, 10.0 g | C(=C)C1=CC=NC=C1 | C7H7N
reactant | ammonium chloride | 95.1 mmole, 5.1 g | [Cl-].[NH4+]
solvent | MeOH | 90 mL | CO | CH4O
product | Bis [2-(4-pyridyl)ethyl]amine | 1.81 g, 16% | N1=CC=C(C=C1)CCNCCC1=CC=NC=C1 | C14H17N3
